US08445679B2
2-phenylcyclohex-1-enyl trifluoromethanesulfonate
2-Phenylcyclohexanone (0.2 g) was added to the mixture of 60% oily NaH (0.17 g) in DMF (3 mL) at 0° C. The mixture was warmed to room temperature and stirred for 30 minutes, treated with 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (0.7 g), stirred for 6 hours and treated with water (20 mL) and ethyl acetate (50 mL). The extract was washed with brine (20 mL) and water (20 mL), and dried (Na2SO4), filtered and concentrated. The concentrate was purified by flash chromotography on silica gel with 0-30% ethyl acetate/hexane.

reactant | 2-Phenylcyclohexanone | 0.2 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | NaH | 0.17 g | [H-].[Na+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.7 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | water | 20 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-phenylcyclohex-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(CCCC1)C1=CC=CC=C1)(F)F | C13H13F3O3S
